US07666864B2
(S,S)—N-(3-{3-Fluoro-4-[5-methyl-6-(2-nitro-6,7-dihydro-5H-imidazo[2,1-b][1,3]oxazin-6-yloxy)-pyridin-3-yl]-phenyl}-2-oxo-oxazolidin-5-ylmethyl)-acetamide
N-(3-{3-Fluoro-4-[4-methoxy-2-(2-nitro-6,7-dihydro-5H-imidazo[2,1-b][1,3]oxazin-6(S)-yloxy)-pyrimidin-5-yl]-phenyl}-2-oxo-oxazolidin-5(S)-ylmethyl)-acetamide. The title compound was prepared by following the same procedure as described in the preparation of Example 7, except 6(S)-(5-bromo-3-methyl-pyridin-2-yloxy)-2-nitro-6,7-dihydro-5H-imidazo[2,1-b][1,3]oxazine was used in place of 6(S)-(5-bromo-pyridin-2-yloxy)-2-nitro-6,7-dihydro-5H-imidazo[2,1-b][1,3]oxazine. ESI MS m/z 527.3 (M+H+); 1H NMR (400 MHz, CDCl3) δ 7.95 (s, 1H), 7.56 (s, 1H), 7.49 (dd, J=12.8, 2.0 Hz, 1H), 7.38 (s, 1H), 7.32 (t, J=8.4 Hz, 1H), 7.24-7.21 (m, 1H), 5.89 (t, J=6.0 Hz, 1H), 5.73 (s, 1H), 4.78-4.75 (m, 2H), 4.48 (d, J=12.8 Hz, 1H), 4.36 (d, J=2.4 Hz, 2H), 3.76 (dd, J=9.2, 6.8 Hz, 1H), 3.66-3.59 (m, 2H), 2.10 (s, 3H), 1.97 (s, 3H).

reactant | N-(3-{3-Fluoro-4-[4-methoxy-2-(2-nitro-6,7-dihydro-5H-imidazo[2,1-b][1,3]oxazin-6(S)-yloxy)-pyrimidin-5-yl]-phenyl}-2-oxo-oxazolidin-5(S)-ylmethyl)-acetamide | FC=1C=C(C=CC1C=1C(=NC(=NC1)O[C@H]1CN2C(OC1)=NC(=C2)[N+](=O)[O-])OC)N2C(O[C@H](C2)CNC(C)=O)=O | C23H22FN7O8
reactant | 6(S)-(5-bromo-3-methyl-pyridin-2-yloxy)-2-nitro-6,7-dihydro-5H-imidazo[2,1-b][1,3]oxazine | BrC=1C=C(C(=NC1)O[C@H]1CN2C(OC1)=NC(=C2)[N+](=O)[O-])C | C12H11BrN4O4
product | (S,S)—N-(3-{3-Fluoro-4-[5-methyl-6-(2-nitro-6,7-dihydro-5H-imidazo[2,1-b][1,3]oxazin-6-yloxy)-pyridin-3-yl]-phenyl}-2-oxo-oxazolidin-5-ylmethyl)-acetamide | FC=1C=C(C=CC1C=1C=NC(=C(C1)C)O[C@H]1CN2C(OC1)=NC(=C2)[N+](=O)[O-])N2C(O[C@H](C2)CNC(C)=O)=O | C24H23FN6O7
